US08686048B2
Intermediate 14: 3,5-dichloro-3′-ethoxybiphenyl-4-amine
The title compound (0.550 g) was prepared from 4-Bromo-2,6-dichloroaniline (0.5 g, 2.2 mmol) and 3-ethoxyphenylboronic acid (0.447 g, 2.7 mmol) as a yellow liquid which was about 70% pure as adjudged by 1H-NMR data. 1H-NMR (δ ppm, DMSO-d6, 400 MHz): 7.56 (s, 2H), 7.28 (s, 1H), 7.16-7.08 (m, 2H), 6.83 (dd, J 2, 8.1, 1H), 5.62 (s, 2H), 4.10 (q, J 7, 2H), 1.32 (t, J 7, 3H).

reactant | 4-Bromo-2,6-dichloroaniline | 2.2 mmol, 0.5 g | BrC1=CC(=C(N)C(=C1)Cl)Cl | C6H4BrCl2N
reactant | 3-ethoxyphenylboronic acid | 2.7 mmol, 0.447 g | C(C)OC=1C=C(C=CC1)B(O)O | C8H11BO3
product | 3,5-dichloro-3′-ethoxybiphenyl-4-amine | 0.550 g | ClC=1C=C(C=C(C1N)Cl)C1=CC(=CC=C1)OCC | C14H13Cl2NO
